US07981903B2
4-(3-methoxy-4-nitrophenyl)-1-propylpyridinium iodide (10 g, 25 mmol) was dissolved in methanol (200 mL). As the mixture was cooled to −10° C. the starting material started to precipitated out of the solution. Sodium borohydride (4.61 g, 11.3 mmol) was added in ˜500 mg portions. Effervescence was observed during the addition as dissolution of the solids in the reaction was observed. The reaction was stirred for 2 h at −10° C. when analysis by TLC revealed completion of the reaction. Saturated aqueous ammonium chloride was added and the reaction warmed to room temperature. The mixture was extracted with Ethyl acetate, the organic layers were dried (Mg2SO4), filtered, and concentrated in vacuo to provide 4-(3-methoxy-4-nitrophenyl)-1-propyl-1,2,3,6-tetrahydropyridine (6.7 g, 97% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.88 (t, J=7.4 Hz, 3 H), 1.50 (dt, J=7.3, 7.3 Hz, 2 H), 2.37 (t, J=7.2 Hz, 2 H), 2.53 (m, 2 H), 2.63 (m, 2 H), 3.11 (br s, 2H), 3.96 (s, 3 H), 6.43 (t, J=3.5 Hz, 1 H), 7.16 (dd, J=8.4, 1.5 Hz, 1 H), 7.29 (d, J=1.3 Hz, 1 H), 7.86 (d, J=8.6 Hz, 1 H). ESIMS (M+H)+=277.

reactant | 4-(3-methoxy-4-nitrophenyl)-1-propylpyridinium iodide | 25 mmol, 10 g | [I-].COC=1C=C(C=CC1[N+](=O)[O-])C1=CC=[N+](C=C1)CCC
reactant | Sodium borohydride | 11.3 mmol, 4.61 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 200 mL | CO | CH4O
product | 4-(3-methoxy-4-nitrophenyl)-1-propyl-1,2,3,6-tetrahydropyridine | 6.7 g, 97% yield | COC=1C=C(C=CC1[N+](=O)[O-])C=1CCN(CC1)CCC | C15H20N2O3
